US09085555B2
B. Tert-butyl 2-(3-iodo-1H-pyrazolo[3,4-c]pyridin-1-yl)acetate
To a suspension of 3-iodo-1H-pyrazolo[3,4-c]pyridine (6.24 g, 22.9 mmol) and potassium carbonate (7.29 g, 52.7 mmol) in acetonitrile (50 mL) was added tert-butyl bromoacetate (4.06 mL, 27.5 mmol) dropwise at RT and the resulting mixture was heated to reflux for 2 h. The mixture was cooled to RT and filtered, the solid was washed with CH3CN and the filtrate was concentrated under vacuum. The residual oil was purified by flash column chromatography on silica gel (gradient EtOAc/c-hexane 1:4, then 1:2, then 1:1). MS (LC/MS): 360.0 [M+H]+; tR (HPLC conditions k): 2.93 min.

reactant | 3-iodo-1H-pyrazolo[3,4-c]pyridine | 22.9 mmol, 6.24 g | IC1=NNC2=CN=CC=C21 | C6H4IN3
reactant | potassium carbonate | 52.7 mmol, 7.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 27.5 mmol, 4.06 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | Tert-butyl 2-(3-iodo-1H-pyrazolo[3,4-c]pyridin-1-yl)acetate | IC1=NN(C2=CN=CC=C21)CC(=O)OC(C)(C)C | C12H14IN3O2
